US07087609B2
Step C: (S)-1-[3-(4-Pyridin-2-ylpiperazin-1-yl)phenyl]ethylamine
A solution of (S)-{1-[3-(4-pyridin-2-ylpiperazin-1-yl)phenyl]ethyl}carbamic acid tert-butyl ester (4.1 g, 10.7 mmol) and hydrochloric acid (4N, 11 mL) in dioxane (40 mL) was stirred at 40° C. for 5 h. The reaction mixture was concentrated under vacuum, dissolved into water (50 mL), and washed with dichloromethane (2×50 mL). The aqueous layer was based with 5N NaOH and extracted with dichloromethane (3×100 mL). The combined organic layers were washed with brine (2×100 ml), dried over sodium sulfate and concentrated under vacuum to afford the title compound as an oil (2.70 g, 89% yield).

reactant | (S)-{1-[3-(4-pyridin-2-ylpiperazin-1-yl)phenyl]ethyl}carbamic acid tert-butyl ester | 10.7 mmol, 4.1 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)N1CCN(CC1)C1=NC=CC=C1)=O | C22H30N4O2
reactant | hydrochloric acid | 4N, 11 mL | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (S)-1-[3-(4-Pyridin-2-ylpiperazin-1-yl)phenyl]ethylamine | 2.70 g, 89% yield | N1=C(C=CC=C1)N1CCN(CC1)C=1C=C(C=CC1)[C@H](C)N | C17H22N4
